US09315458B2
D) 1,5-anhydro-2-(6-(4-cyano-3-fluorobenzyl)-4,5-dimethyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,4-dideoxy-L-threo-pentitol
To a solution of methyl 5-(4-cyano-3-fluorobenzyl)-2-formyl-3,4-dimethylbenzoate (0.25 g) in THF (5.00 mL) was added (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol (0.09 g), and the mixture was stirred overnight at room temperature under argon atmosphere. The reaction mixture was concentrated, and the residue was diluted with acetic acid (5.00 mL). Then, sodium triacetoxyborohydride (0.24 g) was added thereto and the mixture was stirred at room temperature for 2 hr under argon atmosphere. To the reaction mixture was added saturated aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane, methanol/ethyl acetate) to give the title compound (0.16 g).

reactant | methyl 5-(4-cyano-3-fluorobenzyl)-2-formyl-3,4-dimethylbenzoate | 0.25 g | C(#N)C1=C(C=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=O)C)C)C=C1)F | C19H16FNO3
reactant | (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol | 0.09 g | N[C@H]1COCC[C@@H]1O | C5H11NO2
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | 1,5-anhydro-2-(6-(4-cyano-3-fluorobenzyl)-4,5-dimethyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,4-dideoxy-L-threo-pentitol | 0.16 g | C(#N)C1=C(C=C(CC2=C(C(=C3CN(C(C3=C2)=O)[C@H]2COCC[C@@H]2O)C)C)C=C1)F | C23H23FN2O3
